US08431583B2
Stage 1: 2-Chloro-6-[4-(2-pyridyl)phenylmethylamino]-purine (IIIa)
4-(2-Pyridyl)benzylamine (2.0 g, 1.05 mmol) and 3 ml of NEt3 are added to a solution of 2,6-dichloropurine (2.3 g, 10 mmol) in 20 ml of n-BuOH. After heating at 110° C. for 3 h, the mixture is cooled to 20° C. and the solid is filtered off, washed with 5 ml of cold butanol and then dried under vacuum. Yd=85. M.p. >250° C. 1H NMR (d6-DMSO) δ 4.80 (s, 2H, CH2); 7.20 (m, 1H, Hpyridyl); 7.45 (d, 2H, Hphenyl); 7.72 (m, 2H, Hpyridyl); 7.95 (m, 3H, Hphenyl and H-8), 8.54 (d, 1H, J=4.8 Hz, Hpyridyl).

reactant | 4-(2-Pyridyl)benzylamine | 1.05 mmol, 2.0 g | N1=C(C=CC=C1)C1=CC=C(CN)C=C1 | C12H12N2
reactant | NEt3 | 3 ml | CCN(CC)CC | C6H15N
reactant | 2,6-dichloropurine | 10 mmol, 2.3 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
solvent | n-BuOH | 20 ml | CCCCO | C4H10O
product | 2-Chloro-6-[4-(2-pyridyl)phenylmethylamino]-purine | ClC1=NC(=C2NC=NC2=N1)NCC1=CC=C(C=C1)C1=NC=CC=C1 | C17H13ClN6
